US05532367
A mixture of 1.3 grams (0.006 mole) of 2-amino-3-cyano-5-(trimethylsilylethynyl)pyrazine and 0.9 gram (0.006 mole) of potassium carbonate in 50 mL of methanol is stirred at ambient temperature for one hour. The reaction mixture is then concentrated under reduced pressure to a residue. The residue is taken up in about 75 mL of water, and the solution is extracted with two 200 mL portions of ethyl acetate. The combined extracts are dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 2-amino-3-cyano-5-ethynylpyrazine. This reaction is repeated several times.

reactant | 2-amino-3-cyano-5-(trimethylsilylethynyl)pyrazine | 0.006 mole, 1.3 grams | NC1=NC=C(N=C1C#N)C#C[Si](C)(C)C | C10H12N4Si
reactant | potassium carbonate | 0.006 mole, 0.9 gram | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-amino-3-cyano-5-ethynylpyrazine | NC1=NC=C(N=C1C#N)C#C | C7H4N4
